US03976648
Zinc Bis(5-phenyl-3-oxazolidinecarbodithioate) ##EQU1##
To 500 ml isopropanol was added 30 g. (1.0 mole) of paraformaldehyde and 137 g. (1.0 mole) of 2-amino-1-phenylethanol, and the resulting mixture was stirred and heated at 50°C. After the solids had all dissolved, the solution was stirred an additional 30 minutes at 50°C. To the solution, cooled to 35°C., was added 68.7 g. (0.375 mole) of anhydrous zinc acetate and 76.0 g. (1.0 mole) of carbon disulfide. Solids formed in several minutes whereby additional isopropanol (400 ml) was added to stir the mixture efficiently. After heating at 55°C. for 2 hours, the mixture was cooled and filtered; the resulting solids were washed several times in a Waring Blendor with water, and air-dried overnight to obtain 184 g (95%) of the desired product melting at 220°-223°C.; its IR spectrum was consistent with the structure.

reactant | paraformaldehyde | 1.0 mole | C=O | CH2O
reactant | 2-amino-1-phenylethanol | 1.0 mole | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | zinc acetate | 0.375 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
reactant | carbon disulfide | 1.0 mole | C(=S)=S | CS2
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | Zinc Bis(5-phenyl-3-oxazolidinecarbodithioate) | 184 g, 95% | C1(=CC=CC=C1)C1CN(CO1)C(=S)[S-].C1(=CC=CC=C1)C1CN(CO1)C(=S)[S-].[Zn+2] | InChI=1S/2C10H11NOS2.Zn/c2*13-10(14)11-6-9(12-7-11)8-4-2-1-3-5-8;/h2*1-5,9H,6-7H2,(H,13,14);/q;;+2/p-2
